US08293735B2
(±)2-Chloro-6-[4-(2-methyl-tetrahydro-furan-3-yl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
1-(2-methyl-tetrahydro-furan-3-yl)-piperazine was reacted with 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde under reductive amination conditions described in Reference Example 39, to give, after silica chromatography purification the title compound as a white solid (110 mg, 43%).

reactant | 1-(2-methyl-tetrahydro-furan-3-yl)-piperazine | CC1OCCC1N1CCNCC1 | C9H18N2O
reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
product | (±)2-Chloro-6-[4-(2-methyl-tetrahydro-furan-3-yl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2C(OCC2)C)N2CCOCC2 | C20H28ClN5O2S
